US05034394
(1S,4R)-[4-(2-Amino-1,6-dihydro-6-oxo-9H-purin-9-yl)-2-cyclopenten-1-yl]methyl acetate (50 mg, 0.17 mmole), phosphoryl chloride (2 mL), and N,N-diethyl aniline (38 μL) were refluxed for 3 minutes. Volatiles were evaporated, and ice-water (5 mL) was added to the residual oil. The solution was neutralized and extracted with methylene chloride (3×20 mL). The methylene chloride layers were dried (MgSO4) and evaporated to give crude product. Chromatography on silica gel (5% methanol-chloroform) gave (1S,4R)-[4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopenten-1-yl]methyl acetate as pale yellow crystals from ethyl acetate, m.p. 124°-127°; 1H-NMR (DMSO-d6) 8.01 (s, 1, purine H-8), 6.90 (s, 2, NH2), 6.11 and 5.99 (both m, 2, CH=CH), 5.46 (m, 1, CH--N), 4.06 (d, J=6.2, 2, CH2O), 3.1 (m, 1, CH--N), 2.7 and 1.65 (both m, 2, CH2), 1.98 (s, 3, CH3CO).

reactant | (1S,4R)-[4-(2-Amino-1,6-dihydro-6-oxo-9H-purin-9-yl)-2-cyclopenten-1-yl]methyl acetate | 0.17 mmole, 50 mg | C(C)(=O)OC[C@@H]1C=C[C@@H](C1)N1C=2N=C(NC(C2N=C1)=O)N | C13H15N5O3
reactant | phosphoryl chloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-diethyl aniline | 38 μL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S,4R)-[4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopenten-1-yl]methyl acetate | C(C)(=O)OC[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)N | C13H14ClN5O2
